US06455507B1
2-Bromo-5,6-difluoro-1-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole (0.88 g, 1.8 mmol), 20 ml dioxane and 7 ml (7 mmol) of 1 M aqueous LiOH was used to prepare 2-bromo-5,6-difluoro-1-beta-D-ribopyranosyl-1H-benzimidazole (0.23 g, 0.63 mmol, 35% yield) according to General Procedure V; MS (ES+): m/z (rel. intensity) 388 (1.0, M+23 (Na)); 1H NMR (DMSO-d6) δ7.83-7.79 (m, 1H), 7.73-7.68 (m, 1H), 5.62-5.60 (d, 1H, J=9.4 Hz), 4.10-4.08 (d, 1H, J=9.4 Hz), 3.97-3.95 (bs, 2H) 3.67-3.65 (d, 2H, J=8.2 Hz).

reactant | 2-Bromo-5,6-difluoro-1-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 1.8 mmol, 0.88 g | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=C(C(=C2)F)F | C18H17BrF2N2O7
reactant | LiOH | 7 mmol, 1 M, 7 ml | [Li+].[OH-]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-bromo-5,6-difluoro-1-beta-D-ribopyranosyl-1H-benzimidazole | 0.63 mmol, 0.23 g, 35% yield | BrC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O)CO1)C=C(C(=C2)F)F | C12H11BrF2N2O4
